US08580781B2
Preparation of 2-[3-(5-aminopyrazin-2-yl)benzyl]-6-(3,5-difluorophenyl)-2H-pyridazin-3-one (“A280”)
5 ml of water and 5 ml of acetonitrile are added to 150 mg (0.35 mmol) of 6-(3,5-difluorophenyl)-2-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-benzyl]-2H-pyridazin-3-one, 63 mg (0.35 mmol) of 5-bromopyrazin-2-yl-amine and 167 mg (1.99 mmol) of sodium hydrogencarbonate, and the mixture is degassed a number of times. Under an argon atmosphere, 20 mg (0.017 mmol) of tetrakis(triphenylphosphine)palladium(0) are added, and the mixture is subsequently heated at 80° C. for 15 h with stirring. A further 20 mg (0.017 mmol) of tetrakis(triphenylphosphine)palladium(0) are subsequently added, and the mixture is stirred at 80° C. for a further 24 h. The hot suspension is filtered. The filtrate is concentrated to half. After cooling to room temperature, the resultant precipitate is filtered off with suction and washed with a little water. The residue is purified by means of preparative HPLC; yield: 21 mg of “A280”; HPLC: Rt=2.68 min (method C); LC-MS: 392 (M+H).

reactant | water | 5 ml | O | H2O
reactant | 6-(3,5-difluorophenyl)-2-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-benzyl]-2H-pyridazin-3-one | 0.35 mmol, 150 mg | FC=1C=C(C=C(C1)F)C=1C=CC(N(N1)CC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)=O | C23H23BF2N2O3
reactant | 5-bromopyrazin-2-yl-amine | 0.35 mmol, 63 mg | BrC=1N=CC(=NC1)N | C4H4BrN3
reactant | sodium hydrogencarbonate | 1.99 mmol, 167 mg | C(O)([O-])=O.[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.017 mmol, 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.017 mmol, 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 2-[3-(5-aminopyrazin-2-yl)benzyl]-6-(3,5-difluorophenyl)-2H-pyridazin-3-one | NC=1N=CC(=NC1)C=1C=C(CN2N=C(C=CC2=O)C2=CC(=CC(=C2)F)F)C=CC1 | C21H15F2N5O
